US04623728
3-(3-Methoxyphenyl)piperidine
To a stirred mixture of 100 ml of 10% aqueous sodium hydroxide and 100 ml of dichloromethane was added 15 g of 3-(3-methoxyphenyl)piperidine hydrochloride. After a few minutes, the layers were separated and the organic layer was dried using potassium carbonate. Evaporation of the dichloromethane solution then afforded 12.6 g of the title compound as an oil.

reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | 3-(3-methoxyphenyl)piperidine hydrochloride | 15 g | Cl.COC=1C=C(C=CC1)C1CNCCC1
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(3-Methoxyphenyl)piperidine | 12.6 g | COC=1C=C(C=CC1)C1CNCCC1 | C12H17NO
